US07101880B2
2-Phenyl-1,3-dithiane (Aldrich) (3.79 g; 19.3 mmol) was mixed with dry distilled THF (20 mL) under a nitrogen atmosphere. The solution was cooled to −60° C. and n-butyl lithium (1.6M in pentane, 1.56 mmol, 9.74 mL) was added slowly by syringe. The reaction mixture was warmed to −20° C. and held at that temperature for 30 min., and then held at −10° C. for 15 min. The yellow solution was cooled to −78° C. and (1-formyl-pentyl)-carbamic acid tert-butyl ester (1.6 g, 1.4 mmol, in 5 mL THF) was added rapidly (over 20 seconds) and 60 seconds later a mixture of 2 mL acetic acid and 5 mL THF was added rapidly. After warming to 23° C. the solution was concentrated at reduced pressure. Excess 2-phenyl-1,3-dithiane was removed by its crystallization away from the desired product using a minimum of ethyl acetate in hexane. The mother liquors were concentrated and chromatographed using a hexane-ethyl acetate gradient to afford {1-[hydroxy-(2-phenyl-[1,3]dithian-2-yl)-methyl]-pentyl}-carbamic acid tert-butyl ester. (1.7 g, 56% yield).

reactant | 2-Phenyl-1,3-dithiane | 19.3 mmol, 3.79 g | C1(=CC=CC=C1)C1SCCCS1 | C10H12S2
reactant | n-butyl lithium | 1.56 mmol, 1.6M, 9.74 mL | C(CCC)[Li]
reactant | (1-formyl-pentyl)-carbamic acid tert-butyl ester | 1.4 mmol, 5 mL, 1.6 g | C(C)(C)(C)OC(NC(CCCC)C=O)=O | C11H21NO3
reactant | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | {1-[hydroxy-(2-phenyl-[1,3]dithian-2-yl)-methyl]-pentyl}-carbamic acid tert-butyl ester | 56% yield | C(C)(C)(C)OC(NC(CCCC)C(C1(SCCCS1)C1=CC=CC=C1)O)=O | C21H33NO3S2
